US08217032B2
Trifluoromethanesulfonic acid 6-benzyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester
Dissolve trifluoromethanesulfonic acid 6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (9.00 g, 17.2 mmol) in THF (540 mL). Stir the solution at 0° C. under N2 and add benzyl alcohol (2.78 g, 25.8 mmol), polymer-PPh3 (8.60 g, 25.8 mmol) and DIAD (5.21 g, 25.8 mmol). Continue to stir the reaction mixture at room temperature for 2 hours. Add water (1000 mL), and extract the aqueous layer with CH2Cl2 (3×500 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash chromatography (silica gel, 0-4% MeOH—NH4OH (10/1, v/v)/CH2Cl2) to give 10.0 g (96%) of the title compound: mass spectrum (ion spray) m/z=614.1 (M+H).

reactant | trifluoromethanesulfonic acid 6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 17.2 mmol, 9.00 g | OC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C25H24F3NO6S
reactant | benzyl alcohol | 25.8 mmol, 2.78 g | C(C1=CC=CC=C1)O | C7H8O
reactant | PPh3 | 25.8 mmol, 8.60 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 25.8 mmol, 5.21 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 540 mL | C1CCOC1 | C4H8O
product | Trifluoromethanesulfonic acid 6-benzyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 10.0 g, 96% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C32H30F3NO6S
